US06894061B2
6-tert-Butyl-5-[(4-methoxyphenyl)sulfonyl]-5,6-dihydrophenanthridine
A stirred solution of phenanthridine (7.16 g, 40 mmol) in anhydrous tetrahydrofuran (20 mL) was cooled to −30° C., and treated drop-wise under nitrogen via syringe with a solution of 1.7 M tert-butyllithium in pentane (24 mL, 40.8 mmol). The yellow solution was warmed to room temperature and stirred for 15 minutes. The mixture was cooled to −78° C., and treated with 4-methoxybenzenesulfonyl chloride (8.27 g, 40 mmol) as a solid in a single aliquot. The reaction mixture was warmed slowly to room temperature over one hour, poured into 1 N aqueous sodium hydroxide, and extracted with ethyl acetate. The organic phase was washed sequentially with water, a 1 N hydrochloric acid solution, and a saturated, aqueous, sodium chloride solution. After drying over anhydrous sodium sulfate, the organic phase was filtered through a short column of silica gel, and the filtrate evaporated in vacuo to yield a crude yellow oil (16.2 g, 99%). The crude oil was purified by preparative chromatography on a Biotage® 40 Mi column of pre-packed silica gel (90 g), eluting with a mixture of methyl tert-butyl ether-hexane (15:85) at a flow rate of 40 mL/min to afford, after evaporation of the solvent, a colorless oil. Crystallization of the colorless oil from a mixture of diethyl ether-hexane yielded the title compound (3.7 g, 9.1 mmol, 23%) as a homogeneous, colorless, crystalline solid, m.p. 156-158° C.

reactant | phenanthridine | 40 mmol, 7.16 g | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | tert-butyllithium | 1.7 M | C(C)(C)(C)[Li]
reactant | pentane | 40.8 mmol, 24 mL | CCCCC | C5H12
reactant | 4-methoxybenzenesulfonyl chloride | 40 mmol, 8.27 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 6-tert-Butyl-5-[(4-methoxyphenyl)sulfonyl]-5,6-dihydrophenanthridine | 9.1 mmol, 3.7 g, 23% | C(C)(C)(C)C1N(C=2C=CC=CC2C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C=C1)OC | C24H25NO3S
